US04734415
4,5-Dihydro-6-[4-(isothiocyano)phenyl]-3(2H)-pyridazinone
A solution of 10.0 g of 6-(4-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone in 200 ml of DMF is added dropwise over a period of three hours to a stirred solution of 10.5 g of 1,1-thiocarbonyldiimidazole while cooling in an ice-water bath. After completion of the addition, stirring is continued for 30 minutes at icebath temperature followed by an additional 30 minutes at room temperature. The reaction mixture is filtered and the filtrate is diluted with 500 ml of water. The aqueous suspension is cooled in ice and the solid is filtered, washed with water, and dried to yield 10.8 g of the product, 4,5-dihydro-6-[4-(isothiocyano)phenyl]3(2H)pyridazinone as off-white powder, mp 181.5°-183° C.

reactant | 6-(4-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone | 10.0 g | NC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H11N3O
reactant | 1,1-thiocarbonyldiimidazole | 10.5 g | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 4,5-Dihydro-6-[4-(isothiocyano)phenyl]-3(2H)-pyridazinone | 10.8 g | N(=C=S)C1=CC=C(C=C1)C=1CCC(NN1)=O | C11H9N3OS
